Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Victoza / metformin
 
Attending: ___.
 
Chief Complaint:
Asymptomatic Right Carotid Stenosis
 
Major Surgical or Invasive Procedure:
___: Right carotid artery stent placement

 
History of Present Illness:
Ms. ___ has a history of asymptomatic right carotid 
stenosis found last year on ultrasound duplex by her 
cardiologist, Dr. ___.  At her followup appointment 
this year, her carotid duplex showed that there had been
significant progression of her disease prompting a referral to 
Vascular Surgery.  She remains asymptomatic with no history of 
TIA or stroke.  Given her CAD and CHF we felt she maybe a good 
candidate for carotid stenting. 
 
Past Medical History:
Past Medical History:
 -Cerbrovascular Disease  
 -CAD, MI x3  
 -Systolic CHF  
 -HTN  
 -DM  
 -Hypothyroidism
 -dyslipidemia  
 -Obestiy
Past Surgical History:
 -Cholecystectomy  
 -Breast lumpectomy  
 -L rotator cuff repair  

 
Physical Exam:
Physical Exam:
Alert and oriented x 3. Grossly neurologically intact 
BP   126/50     HR   68    RR  20
Resp: Lungs clear
Abd: Soft, non tender
Ext: Pulses:      Left  Femoral palp,    DP p  ,___ d
                  Right Femoral palp,    DP p  ,___ d

Feet warm,  well perfused.  No open areas

Left groin puncture site: Dressing clean dry and intact. Soft, 
no hematoma or ecchymosis.
 
Pertinent Results:
___ 05:47AM BLOOD WBC-6.6 RBC-2.56* Hgb-8.0* Hct-25.0* 
MCV-98 MCH-31.3 MCHC-32.0 RDW-13.1 RDWSD-46.5* Plt ___
___ 05:47AM BLOOD Glucose-196* UreaN-38* Creat-1.5* Na-143 
K-4.1 Cl-107 HCO3-22 AnGap-18
___ 05:47AM BLOOD Calcium-8.5 Phos-4.4 Mg-2.2
 
Brief Hospital Course:
The patient admitted to the hospital on the evening prior to her 
planned carotid stent for IV hydration secondary to her stage 3B 
chronic kidney disease and systolic CHF.  She was gently 
hydrated and frequently monitored with no acute heart failure 
symptoms noted. 

She was brought to the operating room  on ___ and underwent 
right carotid stent.   The procedure was without complications.  
She was closely monitored in the PACU and then transferred to 
the floor in stable condition where she remained hemodynamically 
stable.    She is ambulatory ad lib with no SOB.  Home cardiac 
meds and diuretic were restarted. Post procedure Cr 1.5 which is 
baseline.   She was discharged to home on POD # 1 in stable 
condition with ___ for BP checks and to monitor CHF symptoms.  
Follow-up has been arranged with her cardiologist next week and 
Dr. ___ in one month with carotid duplex.  
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Quinapril 5 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Atorvastatin 80 mg PO DAILY 
4. Torsemide 20 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Levothyroxine Sodium 125 mcg PO DAILY 
7. levimir 16 Units Bedtime
8. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN SOB 
9. Calcipotriene 0.005% Cream 1 Appl TP 5X/WEEK (___) 

10. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  levimir 16 Units Bedtime 
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO DAILY  
5.  Calcipotriene 0.005% Cream 1 Appl TP 5X/WEEK 
(___)  
6.  Levothyroxine Sodium 125 mcg PO DAILY  
7.  Metoprolol Succinate XL 25 mg PO DAILY  
8.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN SOB  
9.  Quinapril 5 mg PO DAILY  
10.  Torsemide 20 mg PO DAILY  
11.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Asymptomatic Right Carotid Stenosis
Chronic Kidney Disease
Chronic Systolic Heart Failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you at ___ 
___.   You were admitted to the hospital after 
placement of a stent in your carotid artery.  The stent will 
help keep the artery open so that blood can flow to the brain.   
To perform the procedure, a small puncture was made in an artery 
in your groin, the puncture site heals on its own.  There are no 
stiches to remove. 

Division of Vascular and Endovascular Surgery
Carotid Artery Stent Discharge Information

Preventing a Blood Clot in the Stent
After getting a stent, you need to take aspirin and 
clopidogrel (Plavix) medicines that work to prevent blood clots 
from forming on the carotid stent.
Important: Do not stop taking aspirin and clopidogrel (Plavix) 
without discussing it with the doctor who did your carotid stent 
procedure. 

Puncture Site Care
For one week:
Do not take a tub bath, go swimming or use a Jacuzzi or hot 
tub.
Use only mild soap and water to gently clean the area around 
the puncture site. 
Gently pat the puncture site dry after showering. 
Do not use powders, lotions, or ointments in the area of the 
puncture site. 

You may remove the bandage and shower the day after the 
procedure.  You may leave the bandage off. 
You may have a small bruise around the puncture site.  This is 
normal and will go away one-two weeks. 
Call your doctor right away if you have swelling, bleeding, 
drainage or discomfort at the puncture site that is new or 
increasing.  Call if  leg or foot where the puncture was done 
feels cold, or if you have a temperature of 101 or more. 

Activity 
For the first 48 hours: 
Do not drive for 48 hours after the procedure
For the first week:
Do not lift, push , pull or carry anything heavier than 10 
pounds
Do not do any exercises or activity that causes you to hold 
your breath or bear down with abdominal muscles.   Take care not 
to put strain on your abdominal muscles when coughing, sneezing, 
or moving your bowels.
After one week:
You may go back to all your regular activities, including 
sexual activity.  We suggest you begin your exercise program at 
half of your usual routine for the first few days.   You may 
then gradually work back to your full routine.

To get help right away, call ___.
 
Call the surgeon right away for:
headache that is not controlled with pain medication or 
headache that is getting worse
fever of 101 degrees or more
bleeding from the incision, or drainage the is new or 
increased, or drainage that is white yellow or green
pain that is not relieved with medication, or pain that is 
getting worse instead of better
 
Followup Instructions:
___